US07846960B2
4-Formyl-2-pent-1-ynyl-benzoic Acid Methyl Ester
To a room temperature solution of 2-Bromo-4-formyl-benzoic acid methyl ester (500 mg, 2.05 mmol) in degassed DMF (5 mL) are added triethylamine (2.0 mL, 14.35 mmol), dichlorobis(triphenylphosphine)palladium (II) (144 mg, 0.205 mmol, 10 mol %), copper (I) iodide (20 mg, 0.103 mmol, 5 mol %), and 1-Pentyne (406 μL, 4.10 mmol). The reaction mixture is heated to 80° C. in a sealed tube. After 2 h, the reaction is concentrated and the residue is chromatographed (0% to 10% EtOAc/Hex) to yield the title compound (279 mg, 59%). 1H NMR (400 MHz, CDCl3) δ 10.03 (s, 1H), 8.02-7.98 (m, 2H), 7.80 (dd, 1H, J=7.9, 1.8 Hz), 3.95 (s, 3H), 2.48 (t, 2H, J=7.0 Hz), 1.73-1.63 (m, 2H), 1.09 (t, 3H, J=7.5 Hz).

reactant | 2-Bromo-4-formyl-benzoic acid methyl ester | 2.05 mmol, 500 mg | COC(C1=C(C=C(C=C1)C=O)Br)=O | C9H7BrO3
reactant | triethylamine | 14.35 mmol, 2.0 mL | C(C)N(CC)CC | C6H15N
reactant | 1-Pentyne | 4.10 mmol, 406 μL | C#CCCC | C5H8
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | dichlorobis(triphenylphosphine)palladium | 0.205 mmol, 144 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper (I) iodide | 0.103 mmol, 20 mg | [Cu]I
product | 4-Formyl-2-pent-1-ynyl-benzoic Acid Methyl Ester | 279 mg, 59% | COC(C1=C(C=C(C=C1)C=O)C#CCCC)=O | C14H14O3
